US07994143B2
15-methylhexadecan-1-ol was prepared from 12-bromo-1-dodecanol and 3-methylbutylbromide. The 1H NMR was identical to that reported by Masuda et al. ((2002) Biosci. Biotech. Biochem. 66:1531-1537).

reactant | 12-bromo-1-dodecanol | BrCCCCCCCCCCCCO | C12H25BrO
reactant | 3-methylbutylbromide | CC(CCBr)C | C5H11Br
product | 15-methylhexadecan-1-ol | CC(CCCCCCCCCCCCCCO)C | C17H36O
